*nodes: primary-primary secondary-secondary
.SUBCKT GTRANS 	4 6 3 1 2 5

*setting uH for inductors
L1 4 6 169.67u
L2 3 1 169.67u
*coupling for transformer
K1 L1 L2 1
.ENDS GTRANS
