*nodes: primary-primary secondary-secondary
.SUBCKT GTRANS 	1 2 3 4 5 6

*setting uH for inductors
L1 1 3 169.67u
L2 4 6 169.67u
*coupling for transformer
K1 L1 L2 1

*Cd Parallel L1
C1 1 3 3.42p

*DCRp series L1 1
R1 1 240.67m

*DCRs series L2 6
R2 6 197.67m
 
*Cww across transformer
C2 1 6 3p

.ENDS GTRANS
